US04666915
A mixture of N-(2-butoxyphenyl)guanidine (11.6 g) and diethyl ethoxymethylenemalonate (12.1 g) in DMF (70 ml) is heated at 100° C. for 9 hours. After cooling, water (50 ml) is added to the reaction mixture, and the precipitate is collected by filtration, washed with ethanol and recrystallized from a mixture of DMF and water to give ethyl 2-(2-butoxyanilino)-1,6-dihydro-6-oxo-5-pyrimidinecarboxylate (16.1 g). M.p. 211°-213° C.

reactant | N-(2-butoxyphenyl)guanidine | 11.6 g | C(CCC)OC1=C(C=CC=C1)NC(=N)N | C11H17N3O
reactant | diethyl ethoxymethylenemalonate | 12.1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | 50 ml | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(2-butoxyanilino)-1,6-dihydro-6-oxo-5-pyrimidinecarboxylate | 16.1 g | C(CCC)OC1=C(NC=2NC(C(=CN2)C(=O)OCC)=O)C=CC=C1 | C17H21N3O4
